US05736539
Methyl 1-(2(R)-Amino-3-mercaptopropyl)-4-(1- naphthylmethyl)piperazine-2-carboxylate hydrochloride
The title compound was obtained according to the procedure described in Example 1, Step E except using methyl 1-(2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropyl)-4-(1-naphthylmethyl)-piperazine-2-carboxylate (0.274 g, 0.383 mmol), triethylsilane (0.24 mL, 1.53 mmol) trifluoroacetic acid (5 mL) in dichloromethane (10 mL). The crude product was purified by HPLC by gradient elution (100% Solvent A to 50% Solvent A/50Solvent B over 60 min. After ion exchange, the title compound was obtained as a white solid. FAB ms m/e 374 (m+1).

reactant | methyl 1-(2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropyl)-4-(1-naphthylmethyl)-piperazine-2-carboxylate | 0.383 mmol, 0.274 g | C(C)(C)(C)OC(=O)N[C@H](CN1C(CN(CC1)CC1=CC=CC2=CC=CC=C12)C(=O)OC)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H49N3O4S
reactant | triethylsilane | 1.53 mmol, 0.24 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 1-(2(R)-Amino-3-mercaptopropyl)-4-(1- naphthylmethyl)piperazine-2-carboxylate hydrochloride | Cl.N[C@H](CN1C(CN(CC1)CC1=CC=CC2=CC=CC=C12)C(=O)OC)CS | InChI=1S/C20H27N3O2S.ClH/c1-25-20(24)19-13-22(9-10-23(19)12-17(21)14-26)11-16-7-4-6-15-5-2-3-8-18(15)16;/h2-8,17,19,26H,9-14,21H2,1H3;1H/t17-,19?;/m1./s1
